US07381746B2
25 mg of 10% palladium carbon was added to 170 mg of (1R,2R,3R,5R,6R)-2,3-diazido-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in a mixture of 15 mL of acetic acid and 5 mL of water, and the mixture was stirred for 24 hours at room temperature under a hydrogen atmosphere. After celite filturation, the solvent was distilled off at 50° C. under reduced pressure, thereby yielding 42 mg of (1R,2R,3R,5R,6R)-2,3-diamino-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | (1R,2R,3R,5R,6R)-2,3-diazido-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 170 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1N=[N+]=[N-])(C(=O)OCC)F)N=[N+]=[N-] | C12H15FN6O4
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
catalyst | palladium carbon | 25 mg | [C].[Pd]
product | (1R,2R,3R,5R,6R)-2,3-diamino-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 42 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1N)(C(=O)OCC)F)N | C12H19FN2O4
